US07763639B2
4-[2-METHOXY-3-(TRIFLUOROMETHYL)PHENYL]-1-PROPYLPIPERIDINE
Preparation according to Example 1: 4-[2-methoxy-3-(trifluoro-methyl)phenyl]piperidine (0.38 g, 1.47 mmol), acetonitrile (40 ml), potassium carbonate (0.4 g, 3.7 mmol) and 1-iodopropane (0.115 ml, 1.47 mmol). Yield: 0.33 g (74%). The amine was converted to the hydrochloric acid salt and recrystallized from ethanol/diethyl ether: M.p. 235.5° C. MS m/z (relative intensity, 70 eV) 301 (M+, 7), 273 (22), 272 (bp), 229 (6), 159 (13).

reactant | 4-[2-methoxy-3-(trifluoro-methyl)phenyl]piperidine | 1.47 mmol, 0.38 g | COC1=C(C=CC=C1C(F)(F)F)C1CCNCC1 | C13H16F3NO
reactant | potassium carbonate | 3.7 mmol, 0.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodopropane | 1.47 mmol, 0.115 ml | ICCC | C3H7I
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 4-[2-METHOXY-3-(TRIFLUOROMETHYL)PHENYL]-1-PROPYLPIPERIDINE | COC1=C(C=CC=C1C(F)(F)F)C1CCN(CC1)CCC | C16H22F3NO
